Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Cephalosporins / Erythrocin / esomeprazole / Macrolide 
Antibiotics / Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with h/o dementia who presents from nursing 
home w/ increased AMS and abdominal pain in the setting of 
recently treated UTI. Briefly, pt was noted to display worsening 
AMS and lethargy along with mild fevers, decreased PO intake, 
and increasing abdominal pain yesterday AM. Notably she was 
recently
treated for symptomatic UTI  (abx and course unknown), though 
she currently reports resolution of sx. She was sent to ___ ED 
for further evaluation where CT A/P showed c/f ischemic vs 
infectious colitis. On arrival, pt was hemodynamically stable 
and labs were notable for a leukocytosis to 15. Her history is 
somewhat unreliable given dementia, but she denies 
fevers/chills, N/V/D, CP/SOB, recurrent dysuria.
 
Past Medical History:
Nonruptured cerebral aneurysm
Hx upper GI bleed
Rotator cuff injury
Fibromyalgia
Urinary incontinence
IDDM type 2- denies insulin or FSBS at home
Hypercholesterolemia
Cataract
Glaucoma
Prior note says hx COPD but pt denies
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Vitals:  101.2  101  117/61 19 97% RA          
Gen: A&Ox3 with questioning of person/place/time; well-appearing
female, in NAD
HEENT: No scleral icterus, no palpable LAD
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, ND focal tenderness to palpation only of LLQ with 
mild
voluntary guarding; no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

Discharge Physical Exam:
VS:
GEN: Awake, alert, sitting up in bed.
HEENT: PERRL, EOMI. neck midline. Mucus membranes pink/moist.
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, non-tender, non-distended. Active bowel sounds.
EXT: Warm and dry. 2+ ___ pulses. No edema.
NEURO: Alert, interactive, oriented x2. Follows commands and 
moves all extremities equal and strong. 

 
Pertinent Results:
___ 06:31AM BLOOD WBC-8.3 RBC-3.89* Hgb-10.1* Hct-32.8* 
MCV-84 MCH-26.0 MCHC-30.8* RDW-15.4 RDWSD-47.5* Plt ___
___ 07:10AM BLOOD WBC-6.4 RBC-3.65* Hgb-9.5* Hct-31.0* 
MCV-85 MCH-26.0 MCHC-30.6* RDW-15.5 RDWSD-48.3* Plt ___
___ 01:45PM BLOOD WBC-6.6 RBC-3.44* Hgb-8.9* Hct-29.3* 
MCV-85 MCH-25.9* MCHC-30.4* RDW-15.5 RDWSD-48.2* Plt ___
___ 07:05AM BLOOD WBC-5.1 RBC-3.73* Hgb-9.7* Hct-32.1* 
MCV-86 MCH-26.0 MCHC-30.2* RDW-15.5 RDWSD-48.8* Plt ___
___ 07:25AM BLOOD WBC-6.9 RBC-3.67* Hgb-9.4* Hct-31.7* 
MCV-86 MCH-25.6* MCHC-29.7* RDW-15.8* RDWSD-50.2* Plt ___
___ 08:20AM BLOOD WBC-8.4 RBC-3.59* Hgb-9.4* Hct-30.3* 
MCV-84 MCH-26.2 MCHC-31.0* RDW-16.1* RDWSD-49.1* Plt ___
___ 02:40PM BLOOD WBC-15.0* RBC-4.09 Hgb-10.7* Hct-34.7 
MCV-85 MCH-26.2 MCHC-30.8* RDW-16.0* RDWSD-50.0* Plt ___
___ 06:31AM BLOOD Glucose-97 UreaN-3* Creat-0.6 Na-138 
K-3.8 Cl-103 HCO3-23 AnGap-12
___ 07:10AM BLOOD Glucose-91 UreaN-3* Creat-0.6 Na-140 
K-3.6 Cl-103 HCO3-23 AnGap-18
___ 01:45PM BLOOD Glucose-95 UreaN-<3* Creat-0.6 Na-137 
K-3.5 Cl-102 HCO3-22 AnGap-17
___ 07:25AM BLOOD Glucose-74 UreaN-10 Creat-0.6 Na-139 
K-3.5 Cl-104 HCO3-20* AnGap-19
___ 03:55PM BLOOD Glucose-111* UreaN-10 Creat-0.7 Na-140 
K-4.5 Cl-105 HCO3-19* AnGap-21*
___ 08:20AM BLOOD Glucose-124* UreaN-8 Creat-0.6 Na-136 
K-2.9* Cl-99 HCO3-20* AnGap-20
___ 02:40PM BLOOD Glucose-154* UreaN-5* Creat-0.7 Na-139 
K-3.4 Cl-99 HCO3-22 AnGap-21*
___ 02:40PM BLOOD cTropnT-<0.01
___ 06:31AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.7
___ 07:10AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.9
___ 07:05AM BLOOD Calcium-8.4 Phos-1.7* Mg-2.0
___ 07:25AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
___ 08:20AM BLOOD Calcium-8.8 Phos-1.9* Mg-1.6
___ 02:40PM BLOOD Calcium-9.3 Phos-2.8 Mg-1.9
___ 02:42PM BLOOD Lactate-1.7
___ 02:50PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:50PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0

___ 4:40 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ (___) AT 12:50 ___ 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

___ 2:40 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 2:50 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with dementia who presented to the 
emergency department from nursing home facility with increased 
confusion, decreased PO intake, and abdominal pain. CT abdomen 
pelvis showed mild pancolitis, which may be infectious, 
inflammatory or ischemic in nature. White blood cell count 8.4. 
Stool sample sent positive for Clostridium Difficile. Blood and 
urine cultures were negative. Chest xray showed no signs of 
pneumonia. She was admitted to the surgical floor for IV fluids, 
abdominal exams, and antibiotic treatment. 

On HD2, abdominal pain decreased and diet was advanced to 
clears. On HD3 her diet was advanced to regular with continued 
good tolerability. On HD4 flagyl was added to antibiotic regimen 
due to continued multiple bowel movements. On HD5 frequency of 
bowel movements decreased, she continued to tolerate a regular 
diet without abdominal pain. White blood cell count was 
monitored and remained stable, within normal limits and the 
patient remained afebrile. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged to rehab. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan. 

 
Medications on Admission:
ASA 81', atorvastatin 10', brimonidone eye drops b/l eyes ',
buproprion 100'', colace 200'', ferrous sulfate 325', 
latanoprost
b/l eyes QHS, ranitidine 150'', timolol ftt b/l eyes', vesicare
10, vitamin D 2000U', acetaminophen 650'''' PRN, trazodone 25'
PRN insomnia
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  MetroNIDAZOLE 500 mg PO Q8H 
End ___.  
3.  Vancomycin Oral Liquid ___ mg PO Q6H 
End ___.  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES QHS  
7.  BuPROPion 100 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Ranitidine 150 mg PO BID  
11.  Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY  
12.  TraZODone 25 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Clostridium Difficile colitis 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain and found to have an infection in your lower 
intestine called c.diff. You were given the appropriate 
antibiotics for this infection and your abdominal pain resolved. 
You are now doing better, tolerating a regular diet, and ready 
to be discharged back to rehab to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

 
Followup Instructions:
___